US07001897B2
To a solution of 1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}-3-hydroxyazetidine (930 mg, 2.50 mmol) (obtained as described in Reference Example 35(4)) in methylene chloride (47 ml) were added methanesulfonyl chloride (480 μl, 6.20 mmol) (obtained as described in Reference Example 35(4)) and triethylamine (869 μl, 6.20 mmol) in an ice bath. After stirring the mixture in the ice bath for 10 minutes, the mixture was stirred at room temperature for 1 hour. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (2:1→1:2) as the eluant to afford 1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}-3-methanesulfonyloxyazetidine (1.16 g, yield 100%) as a pale yellow oil.

reactant | 1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}-3-hydroxyazetidine | 2.50 mmol, 930 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC(=O)C=1N=C(SC1)N1CC(C1)O | C16H29N3O3SSi
reactant | methanesulfonyl chloride | 6.20 mmol, 480 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 6.20 mmol, 869 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 47 ml | C(Cl)Cl | CH2Cl2
product | 1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}-3-methanesulfonyloxyazetidine | 1.16 g, yield 100% | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C17H31N3O5S2Si
